US07790747B2
To as solution of the crude O-isopropyl-hydroxylamine (200 mg) from above in CH2Cl2 (5 ml) was added Et3N (0.30 ml, 2.16 mmol) and 4-nitrophenyl chloroformate (430 mg, 2.13 mmol) and the mixture stirred at room temperature for 30 min. before diluting with CH2Cl2 (20 ml) and brine (15 ml). The aqueous layer was extracted with CH2Cl2 (1×15 ml) and the combined organic extracts dried (Na2SO4), concentrated and purified by column chromatography on silica gel (Hexanes/EtOAc, 4:1) to afford N-(4-nitrophenoxycarbonyl)isopropoxylamine (290 mg) as a yellow oil.

reactant | O-isopropyl-hydroxylamine | 200 mg | C(C)(C)ON | C3H9NO
reactant | Et3N | 2.16 mmol, 0.30 ml | CCN(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 2.13 mmol, 430 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | brine | 15 ml | [Cl-].[Na+].O
product | N-(4-nitrophenoxycarbonyl)isopropoxylamine | 290 mg | [N+](=O)([O-])C1=CC=C(OC(=O)NOC(C)C)C=C1 | C10H12N2O5
